US09162992B2
2-(t-Butyl-dimethylsilanyl)amino-4-chloro-7H-pyrrolo[2,3-d]pyrimidine (CXXII) (5 g, 17.7 mmol), 2-iodopropane (4.5 g, 26.6 mmol) and K2CO3 (4.3 g, 26.6 mmol) in DMF (20 mL) were reacted at ambient temperature for 15 h. After addition of H2O (50 mL) to the reaction mixture, the aqueous solution was extracted with EtOAc (300 mL) and the organic layer was washed with a brine solution (50 mL) and dried with Na2SO4. The solvents were removed in vacuo and the residue was purified by flash column chromatography (pet ether/EtOAc=10/1 to 5/1) to afford 2-(t-butyl-dimethylsilyl)amino-4-chloro-7-i-propyl-pyrrolo[2,3-d]pyrimidine (CXXXIII, 5.7 g, 100%) as a light yellow oil. LCMS: (ESI) m/z=325 (M+H)+.

reactant | 2-(t-Butyl-dimethylsilanyl)amino-4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 17.7 mmol, 5 g | [Si](C)(C)(C(C)(C)C)NC=1N=C(C2=C(N1)NC=C2)Cl | C12H19ClN4Si
reactant | 2-iodopropane | 26.6 mmol, 4.5 g | IC(C)C | C3H7I
reactant | K2CO3 | 26.6 mmol, 4.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 50 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(t-butyl-dimethylsilyl)amino-4-chloro-7-i-propyl-pyrrolo[2,3-d]pyrimidine | 5.7 g, 100% | [Si](C)(C)(C(C)(C)C)NC=1N=C(C2=C(N1)N(C=C2)C(C)C)Cl | C15H25ClN4Si
